US08377942B2
1,2,4-triazole (248 mg) is added to a solution of 4-fluoro-naphthalene-1-carbaldehyde (522 mg) and potassium carbonate (4 mg) in DMF (4 ml): After 3 hours a room temperature, the reaction is quenched with water (40 ml) and ethyl acetate (50 ml). The organic phase is separated and the aqueous phase is extracted two times with ethyl acetate. The organic phases are combined, extracted with water and with a saturated aqueous solution of NaCl, dried over Na2SO4 and concentrated in vacuo. The crude product is purified on a semi-preparative HPLC to yield 4-[1,2,4]triazol-1-yl-naphthalene-1-carbaldehyde (460 mg) as beige crystals. MS (HPLC/MS): 224 (MH+). Retention time: 2.97 min.

reactant | 1,2,4-triazole | 248 mg | N1N=CN=C1 | C2H3N3
reactant | 4-fluoro-naphthalene-1-carbaldehyde | 522 mg | FC1=CC=C(C2=CC=CC=C12)C=O | C11H7FO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
catalyst | potassium carbonate | 4 mg | C([O-])([O-])=O.[K+].[K+]
product | 4-[1,2,4]triazol-1-yl-naphthalene-1-carbaldehyde | 460 mg | N1(N=CN=C1)C1=CC=C(C2=CC=CC=C12)C=O | C13H9N3O
